US07674789B2
6a) 1,1-Dimethylethyl 4-{[4-(5-{[(cyclopropylmethyl)amino]carbonyl]-2-methylphenyl)-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl}amino}-1-piperidinecarboxylate
To the solution of N-(Cyclopropylmethyl)-3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzamide (100 mg) in THF (10 mL) was added 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate (195 mg) at r.t. The reaction mixture was heated at reflux for 4 h. The solution was then evaporated in vacuo and the residue was purified by column chromatography to provide the title compound as a white solid. LC-MS m/z 648.4 (M+H)+, 2.16 min (ret. time).

reactant | N-(Cyclopropylmethyl)-3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylbenzamide | 100 mg | C1(CC1)CNC(C1=CC(=C(C=C1)C)C1=NC(=NC=2N(C(NCC21)=O)C2=C(C=CC=C2F)F)S(=O)C)=O | C25H23F2N5O3S
reactant | 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate | 195 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1,1-Dimethylethyl 4-{[4-(5-{[(cyclopropylmethyl)amino]carbonyl]-2-methylphenyl)-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-2-yl}amino}-1-piperidinecarboxylate | C1(CC1)CNC(=O)C=1C=CC(=C(C1)C1=NC(=NC=2N(C(NCC21)=O)C2=C(C=CC=C2F)F)NC2CCN(CC2)C(=O)OC(C)(C)C)C | C34H39F2N7O4
